spice
* SPICE Netlist for the Circuit

V1 6 0 DC 0        ; Voltage source for reference, assuming ground.

E1 7 6 7 6 1       ; VCVS, gain is 1 for representation, adjust as needed.

R1 7 4 z0          ; Zo resistor
R2 4 2 re_rf       ; RE + RF resistor
R3 5 3 zL          ; ZL resistor

.ends